US08097617B2
7-Aminomethyl-6-(2,4-dichloro-phenyl)-3-morpholin-4-yl-imidazo[1,2-a]pyridin-8-ylamine
To a solution of 8-amino-6-(2,4-dichloro-phenyl)-3-morpholin-4-yl-imidazo[1,2-a]pyridine-7-carbonitrile (112 mg, 0.29 mmol) in THF (4 mL) was added a BH3.THF complex (1.0 M solution in THF, 1.2 mL, 1.2 mmol) followed by a 4M HCl solution in dioxane (2 drops). The reaction mixture was stirred and refluxed for 3 h, then cooled to 0° C. (ice bath) and poured into MeOH. The mixture was concentrated under vacuum, the remaining residue was dissolved in a 2M HCl solution in water, and the mixture was washed with Et2O (2×). The aqueous layer was frozen and lyophilized. The remaining residue was purified by recrystallization in a mixture of MeOH/AcOEt to yield the title compound (2HCl salt, 36 mg, 0.077 mmol, 27%). MS: 392 [M+1]+; HPLC: AtRet=1.13.

reactant | 8-amino-6-(2,4-dichloro-phenyl)-3-morpholin-4-yl-imidazo[1,2-a]pyridine-7-carbonitrile | 0.29 mmol, 112 mg | NC=1C=2N(C=C(C1C#N)C1=C(C=C(C=C1)Cl)Cl)C(=CN2)N2CCOCC2 | C18H15Cl2N5O
reactant | BH3.THF | 1.2 mmol, 1.0 M, 1.2 mL | B.C1CCOC1
reactant | HCl | 4M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | dioxane | 2 drops | O1CCOCC1 | C4H8O2
product | 7-Aminomethyl-6-(2,4-dichloro-phenyl)-3-morpholin-4-yl-imidazo[1,2-a]pyridin-8-ylamine | 0.077 mmol, 36 mg, 27% | NCC1=C(C=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)N2CCOCC2)N | C18H19Cl2N5O
